USRE029835
1-(β-D-ribofuranosyl)-1,2,4-triazole-3-carboxylic acid methyl ester
A solution of 1-(2,3,5-tri-O-benzoyl-β-D-ribofuranosyl)-1,2,4-triazole-3-carboxylic acid methyl ester (25.0 g., 43.8 mmol) and sodium methoxide (400 mg.) in methanol (200 ml.) was refluxed for 45 min. The solution was neutralized with Bio-Rad AG50-X2 (H), filtered and the filtrate was concentrated to a syrup. Crystallization of the syrup from methanolethyl acetate provided 8.0 g. (70.5%) of product with M.P. 117-199°.

reactant | 1-(2,3,5-tri-O-benzoyl-β-D-ribofuranosyl)-1,2,4-triazole-3-carboxylic acid methyl ester | 43.8 mmol, 25.0 g | COC(=O)C1=NN(C=N1)[C@H]1[C@H](OC(C2=CC=CC=C2)=O)[C@H](OC(C2=CC=CC=C2)=O)[C@H](O1)COC(C1=CC=CC=C1)=O | C30H25N3O9
reactant | sodium methoxide | 400 mg | C[O-].[Na+]
solvent | methanol | 200 ml | CO | CH4O
product | 1-(β-D-ribofuranosyl)-1,2,4-triazole-3-carboxylic acid methyl ester | COC(=O)C1=NN(C=N1)[C@H]1[C@H](O)[C@H](O)[C@H](O1)CO | C9H13N3O6
